*
*|DSPF 1.5
*
*|DATE "Wed May  8 11:48:23 2013"
*|VENDOR "Cadence Design Systems"
*|PROGRAM "Cadence Extraction QRC"
*|VERSION "12.1 Linux 64 bit - (Fri Mar 15 17:53:47 PDT 2013)"
*|DESIGN "OR3X4"
*|DIVIDER /
*|DELIMITER :
*|DeviceFingerDelim "@"
*|BUSBIT []
** caps2d version: 10
*
.GLOBAL  VDD VSS
*
.SUBCKT  OR3X4 C A Y B
*
*Net Section
*
*|GROUND_NET VSS
*
*|NET C 2.5101e-16
*|P (C X 0 0.1000 0.8550)
*|I (Mmn2:g Mmn2 g X 0 0.2225 0.3600)
*|I (Mmp2:g Mmp2 g X 0 0.2375 1.2650)
*|S (C:2 0.2300 0.6700)
*|S (C:3 0.1100 0.6700)
C1 Mmp2:g VSS 8.80457e-17
C2 Mmn2:g VSS 3.78469e-17
C3 C:2 VSS 4.54984e-17
C4 C:3 VSS 4.76065e-17
C5 C VSS 3.20123e-17
Rl1 C:2 C:3 55.276199 $W=0.114
Rl2 C:2 Mmn2:g 68.745804 $W=0.039
Rl3 Mmp2:g C:2 151.156784 $W=0.039
Rk4 C C:3 0.111160 $W=0.1
*
*|NET A 2.40497e-16
*|P (A X 0 0.7000 1.0450)
*|I (Mmn0:g Mmn0 g X 0 0.6325 0.3600)
*|I (Mmp0:g Mmp0 g X 0 0.6275 1.2650)
*|S (A:1 0.6900 0.8000)
*|S (A:2 0.6300 0.8000)
C6 Mmp0:g VSS 4.98281e-17
C7 Mmn0:g VSS 4.98488e-17
C8 A:2 VSS 4.78909e-17
C9 A:1 VSS 4.79367e-17
C10 A VSS 4.49923e-17
Rl5 A:1 A:2 47.069218 $W=0.094
Rl6 A:2 Mmn0:g 116.082870 $W=0.039
Rl7 A:2 Mmp0:g 100.412003 $W=0.039
Rk8 A A:1 0.147212 $W=0.1
*
*|NET Y 4.53684e-16
*|P (Y X 0 1.5000 0.6650)
*|I (Mmn3:d Mmn3 d X 0 0.9825 0.3600)
*|I (Mmp3:d Mmp3 d X 0 0.9350 1.2650)
*|S (Y:1 1.4600 0.6650)
C11 Mmp3:d VSS 2.3446e-16
C12 Mmn3:d VSS 1.69847e-16
C13 Y:1 VSS 3.07743e-17
C14 Y VSS 1.86025e-17
Rk9 Y:1 Y 0.005323 $W=0.13
Rk10 Mmn3:d Y:1 0.205423 $W=0.09
Rk11 Mmp3:d Y:1 0.294367 $W=0.1
*
*|NET B 3.1143e-16
*|P (B X 0 0.3000 1.0450)
*|I (Mmn1:g Mmn1 g X 0 0.4275 0.3600)
*|I (Mmp1:g Mmp1 g X 0 0.3425 1.2650)
*|S (B:2 0.3700 0.7300)
C15 Mmp1:g VSS 8.40445e-17
C16 Mmn1:g VSS 4.82413e-17
C17 B:2 VSS 1.12644e-16
C18 B VSS 6.65e-17
Rl12 Mmn1:g B:2 80.508713 $W=0.039
Rl13 B:2 Mmp1:g 118.406593 $W=0.039
Rk14 B:2 B 45.193974 $W=0.1
*
*|NET n0 7.15292e-16
*|I (Mmn2:d Mmn2 d X 0 0.1300 0.3600)
*|I (Mmn1:d Mmn1 d X 0 0.5300 0.3600)
*|I (Mmn3:g Mmn3 g X 0 0.8725 0.3600)
*|I (Mmp2:d Mmp2 d X 0 0.1450 1.2650)
*|S (n0:14 0.5300 0.6100)
*|S (n0:15 0.5300 0.4800)
C19 Mmp2:d VSS 8.27213e-17
C20 Mmn3:g VSS 3.71756e-16
C21 Mmn1:d VSS 3.12286e-17
C22 Mmn2:d VSS 4.83235e-17
C23 n0:15 VSS 3.17409e-17
C24 n0:14 VSS 1.49522e-16
Rk15 n0:15 n0:14 0.108643 $W=0.1
Rk16 n0:15 Mmn2:d 37.841755 $W=0.08
Rk17 n0:15 Mmn1:d 37.590385 $W=0.08
Rk18 n0:14 Mmn3:g 0.362476 $W=0.08
Rk19 n0:14 Mmp2:d 31.796322 $W=0.09
*
*|NET n2 6.99106e-18
*|I (Mmp2:s Mmp2 s X 0 0.2900 1.2650)
*|I (Mmp1:d Mmp1 d X 0 0.2900 1.2650)
C25 Mmp2:s VSS 6.99106e-18
Rmw20 Mmp1:d Mmp2:s 0.001000 $W=1
*
*|NET n1 1.0414e-17
*|I (Mmp1:s Mmp1 s X 0 0.4850 1.2650)
*|I (Mmp0:d Mmp0 d X 0 0.4850 1.2650)
C26 Mmp1:s VSS 1.0414e-17
Rmw21 Mmp0:d Mmp1:s 0.001000 $W=1
*
*Instance Section
*
Mmn2	Mmn2:d	Mmn2:g	VSS	VSS	g45n1hvt	L=0.045U	W=0.26U
+ AD=0.0364P	AS=0.0416P	PD=0.8U	PS=0.84U
+ fw=2.6e-07 sa=1.4e-07 sb=1.435e-06 sca=7.84363 scb=0.00546499 scc=9.84911e-05
Mmn1	Mmn1:d	Mmn1:g	VSS	VSS	g45n1hvt	L=0.045U	W=0.26U
+ AD=0.0416P	AS=0.0416P	PD=0.84U	PS=0.84U
+ fw=2.6e-07 sa=3.45e-07 sb=1.23e-06 sca=7.84363 scb=0.00546499 scc=9.84911e-05
Mmn0	Mmn1:d	Mmn0:g	VSS	VSS	g45n1hvt	L=0.045U	W=0.26U
+ AD=0.0416P	AS=0.0507P	PD=0.84U	PS=0.91U
+ fw=2.6e-07 sa=5.5e-07 sb=1.025e-06 sca=7.84363 scb=0.00546499 scc=9.84911e-05
Mmn3	Mmn3:d	Mmn3:g	VSS	VSS	g45n1hvt	L=0.045U	W=0.26U
+ AD=0.04355P	AS=0.04355P	PD=0.855U	PS=0.855U	M=4
+ fw=2.6e-07 sa=7.9e-07 sb=7.85e-07 sca=7.84363 scb=0.00546499 scc=9.84911e-05
Mmp2	Mmp2:d	Mmp2:g	Mmp2:s	VDD	g45p1hvt	L=0.045U	W=0.39U
+ AD=0.0546P	AS=0.0234P	PD=1.06U	PS=0.9U
+ fw=3.9e-07 sa=1.4e-07 sb=1.35e-06 sca=22.1268 scb=0.0251863 scc=0.00108449
Mmp1	Mmp1:d	Mmp1:g	Mmp1:s	VDD	g45p1hvt	L=0.045U	W=0.39U
+ AD=0.0234P	AS=0.0936P	PD=0.9U	PS=1.26U
+ fw=3.9e-07 sa=2.45e-07 sb=1.245e-06 sca=16.9551 scb=0.0171783 scc=0.000423515
Mmp0	Mmp0:d	Mmp0:g	VDD	VDD	g45p1hvt	L=0.045U	W=0.39U
+ AD=0.0936P	AS=0.0624P	PD=1.26U	PS=1.1U
+ fw=3.9e-07 sa=5.3e-07 sb=9.6e-07 sca=12.8811 scb=0.0106724 scc=0.000292552
Mmp3	Mmp3:d	Mmn3:g	VDD	VDD	g45p1hvt	L=0.045U	W=0.39U
+ AD=0.0624P	AS=0.06045P	PD=1.1U	PS=1.09U	M=4
+ fw=3.9e-07 sa=7.35e-07 sb=7.55e-07 sca=12.0193 scb=0.0100773 scc=0.000291813
.ENDS
.END
