*
*|DSPF 1.5
*
*|DATE "Wed May  8 11:49:59 2013"
*|VENDOR "Cadence Design Systems"
*|PROGRAM "Cadence Extraction QRC"
*|VERSION "12.1 Linux 64 bit - (Fri Mar 15 17:53:47 PDT 2013)"
*|DESIGN "OR4XL"
*|DIVIDER /
*|DELIMITER :
*|DeviceFingerDelim "@"
*|BUSBIT []
** caps2d version: 10
*
.GLOBAL  VDD VSS
*
.SUBCKT  OR4XL Y B C D A
*
*Net Section
*
*|GROUND_NET VSS
*
*|NET Y 1.24047e-16
*|P (Y X 0 1.5000 0.4750)
*|I (Mmn4:d Mmn4 d X 0 1.4650 0.4425)
*|I (Mmp4:d Mmp4 d X 0 1.4375 1.3025)
C1 Mmp4:d VSS 6.89425e-17
C2 Mmn4:d VSS 1.55332e-17
C3 Y VSS 3.95712e-17
Rk1 Y Mmn4:d 75.026863 $W=0.1
Rk2 Y Mmp4:d 62.465691 $W=0.1
*
*|NET B 2.66596e-16
*|P (B X 0 0.7000 0.6650)
*|I (Mmn1:g Mmn1 g X 0 0.7525 0.4425)
*|I (Mmp1:g Mmp1 g X 0 0.7525 1.3025)
*|S (B:2 0.7250 0.7100)
*|S (B:4 0.7250 0.7100)
C4 Mmp1:g VSS 5.23682e-17
C5 Mmn1:g VSS 3.64573e-17
C6 B:2 VSS 1.50775e-16
C7 B VSS 2.69959e-17
Rl3 B:2 Mmn1:g 62.230236 $W=0.039
Rl4 Mmp1:g B:2 173.768692 $W=0.039
Rk5 B B:4 0.024795 $W=0.112
Rk6 B:2 B:4 45.000000 $W=0.112
*
*|NET C 3.04899e-16
*|P (C X 0 0.5000 1.0450)
*|I (Mmn2:g Mmn2 g X 0 0.5575 0.4425)
*|I (Mmp2:g Mmp2 g X 0 0.5575 1.3025)
*|S (C:2 0.5300 1.0400)
C8 Mmp2:g VSS 4.42053e-17
C9 Mmn2:g VSS 6.97146e-17
C10 C:2 VSS 6.61749e-17
C11 C VSS 1.24804e-16
Rl7 C:2 Mmn2:g 189.153305 $W=0.039
Rl8 Mmp2:g C:2 46.845619 $W=0.039
Rk9 C:2 C 45.003670 $W=0.48
*
*|NET D 2.27675e-16
*|P (D X 0 0.3000 0.6650)
*|I (Mmn3:g Mmn3 g X 0 0.3525 0.4425)
*|I (Mmp3:g Mmp3 g X 0 0.3975 1.3025)
*|S (D:2 0.3100 0.6600)
*|S (D:4 0.3100 0.6600)
C12 Mmp3:g VSS 6.48615e-17
C13 Mmn3:g VSS 2.80816e-17
C14 D:2 VSS 5.09932e-17
C15 D VSS 8.37383e-17
Rl10 D:2 Mmn3:g 41.540520 $W=0.039
Rl11 Mmp3:g D:2 202.042587 $W=0.039
Rk12 D:4 D 0.002985 $W=0.1
Rk13 D:2 D:4 45.000000 $W=0.1
*
*|NET A 2.14581e-16
*|P (A X 0 1.1000 0.6650)
*|I (Mmn0:g Mmn0 g X 0 1.1175 0.4425)
*|I (Mmp0:g Mmp0 g X 0 1.0625 1.3025)
*|S (A:2 1.0900 0.6500)
*|S (A:4 1.0900 0.6500)
C16 Mmp0:g VSS 5.01937e-17
C17 Mmn0:g VSS 2.46875e-17
C18 A:2 VSS 4.19635e-17
C19 A VSS 9.7736e-17
Rl14 Mmn0:g A:2 40.384617 $W=0.039
Rl15 A:2 Mmp0:g 197.252747 $W=0.039
Rk16 A:4 A 0.006404 $W=0.147
Rk17 A:2 A:4 45.000000 $W=0.147
*
*|NET n0 4.65002e-16
*|I (Mmn3:d Mmn3 d X 0 0.4550 0.4425)
*|I (Mmn1:d Mmn1 d X 0 0.9350 0.4425)
*|I (Mmn4:g Mmn4 g X 0 1.3575 0.4425)
*|I (Mmp3:d Mmp3 d X 0 0.3050 1.3025)
*|I (Mmp4:g Mmp4 g X 0 1.3025 1.3025)
*|S (n0:2 1.3300 1.0850)
*|S (n0:4 0.8850 1.1600)
*|S (n0:7 0.8850 0.4300)
C20 Mmp4:g VSS 2.66891e-17
C21 Mmp3:d VSS 5.08421e-17
C22 Mmn4:g VSS 4.859e-17
C23 Mmn1:d VSS 8.48211e-17
C24 Mmn3:d VSS 3.33734e-17
C25 n0:4 VSS 1.05469e-16
C26 n0:2 VSS 1.15218e-16
Rl18 Mmn4:g n0:2 207.692307 $W=0.039
Rl19 n0:2 Mmp4:g 29.945055 $W=0.039
Rk20 n0:2 n0:4 45.341431 $W=0.08
Rk21 n0:4 n0:7 0.512485 $W=0.09
Rk22 n0:7 Mmn3:d 75.287498 $W=0.09
Rk23 Mmn1:d n0:7 75.000000 $W=0.09
Rk24 n0:4 Mmp3:d 62.479485 $W=0.09
*
*|NET n3 3.83579e-18
*|I (Mmp3:s Mmp3 s X 0 0.4775 1.3025)
*|I (Mmp2:d Mmp2 d X 0 0.4775 1.3025)
C27 Mmp3:s VSS 3.83579e-18
Rmw25 Mmp2:d Mmp3:s 0.001000 $W=1
*
*|NET n2 5.6746e-18
*|I (Mmp2:s Mmp2 s X 0 0.6550 1.3025)
*|I (Mmp1:d Mmp1 d X 0 0.6550 1.3025)
C28 Mmp2:s VSS 5.6746e-18
Rmw26 Mmp1:d Mmp2:s 0.001000 $W=1
*
*|NET n1 5.67102e-18
*|I (Mmp1:s Mmp1 s X 0 0.9075 1.3025)
*|I (Mmp0:d Mmp0 d X 0 0.9075 1.3025)
C29 Mmp1:s VSS 5.67102e-18
Rmw27 Mmp0:d Mmp1:s 0.001000 $W=1
*
*Instance Section
*
Mmn3	Mmn3:d	Mmn3:g	VSS	VSS	g45n1hvt	L=0.045U
+ W=0.145U
+ AD=0.0232P	AS=0.0374P	PD=0.61U	PS=1.21U
+ fw=1.45e-07 sa=1e-07 sb=1.175e-06 sca=10.0732 scb=0.00911402 scc=0.000253284
Mmn2	Mmn3:d	Mmn2:g	VSS	VSS	g45n1hvt	L=0.045U
+ W=0.145U
+ AD=0.0232P	AS=0.04465P	PD=0.61U	PS=1.31U
+ fw=1.45e-07 sa=3.05e-07 sb=9.7e-07 sca=10.0732 scb=0.00911402 scc=0.000253284
Mmn1	Mmn1:d	Mmn1:g	VSS	VSS	g45n1hvt	L=0.045U
+ W=0.145U
+ AD=0.0464P	AS=0.04465P	PD=0.93U	PS=1.31U
+ fw=1.45e-07 sa=5e-07 sb=7.75e-07 sca=10.0732 scb=0.00911402 scc=0.000253284
Mmn0	Mmn1:d	Mmn0:g	VSS	VSS	g45n1hvt	L=0.045U
+ W=0.145U
+ AD=0.0464P	AS=0.02827P	PD=0.93U	PS=0.68U
+ fw=1.45e-07 sa=8.65e-07 sb=4.1e-07 sca=10.0732 scb=0.00911402 scc=0.000253284
Mmn4	Mmn4:d	Mmn4:g	VSS	VSS	g45n1hvt	L=0.045U
+ W=0.145U
+ AD=0.02465P	AS=0.02827P	PD=0.63U	PS=0.68U
+ fw=1.45e-07 sa=1.105e-06 sb=1.7e-07 sca=10.0732 scb=0.00911402 scc=0.000253284
Mmp3	Mmp3:d	Mmp3:g	Mmp3:s	VDD	g45p1hvt	L=0.045U
+ W=0.215U
+ AD=0.0301P	AS=0.02472P	PD=0.71U	PS=0.66U
+ fw=2.15e-07 sa=1.4e-07 sb=1.13e-06 sca=14.0155 scb=0.0121212 scc=0.000127529
Mmp2	Mmp2:d	Mmp2:g	Mmp2:s	VDD	g45p1hvt	L=0.045U
+ W=0.215U
+ AD=0.02472P	AS=0.03225P	PD=0.66U	PS=0.73U
+ fw=2.15e-07 sa=3e-07 sb=9.7e-07 sca=11.8523 scb=0.00867586 scc=8.03921e-05
Mmp1	Mmp1:d	Mmp1:g	Mmp1:s	VDD	g45p1hvt	L=0.045U
+ W=0.215U
+ AD=0.03225P	AS=0.05697P	PD=0.73U	PS=0.96U
+ fw=2.15e-07 sa=4.95e-07 sb=7.75e-07 sca=11.0003 scb=0.00769296 scc=7.77264e-05
Mmp0	Mmp0:d	Mmp0:g	VDD	VDD	g45p1hvt	L=0.045U
+ W=0.215U
+ AD=0.05697P	AS=0.04192P	PD=0.96U	PS=0.82U
+ fw=2.15e-07 sa=8.05e-07 sb=4.65e-07 sca=12.0313 scb=0.00891071 scc=8.16109e-05
Mmp4	Mmp4:d	Mmp4:g	VDD	VDD	g45p1hvt	L=0.045U
+ W=0.215U
+ AD=0.04837P	AS=0.04192P	PD=0.88U	PS=0.82U
+ fw=2.15e-07 sa=1.045e-06 sb=2.25e-07 sca=17.0817 scb=0.0174363 scc=0.000365094
.ENDS
.END
